US07115611B2
In analogy to the procedures described in examples 8A] and 31B], 2-(4-hydroxy-2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester was reacted with 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 1N]) to give 2-{2-methoxy-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow solid.

reactant | 2-(4-hydroxy-2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)OC)=O | C13H18O5
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
product | 2-{2-methoxy-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenoxy}-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)OC)=O | C27H28F3NO5
